US04772600
2-(4-Chlorophenyl)-N-(cyclopropylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole (2.27 g, 0.014 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 4 hours. Aminomethylcyclopropane hydrochloride (3.01 g, 0.028 mole) and triethylamine (2.83 g, 0.028 mole) were added and the reaction mixture was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated to dryness and the residue was treated with water. The solid was collected by filtration, washed with water, and dried under high vacuum overnight. The solid was recrystallized from isopropyl alcohol with cooling. The crystalline precipitate was collected by filtration, washed with cold isopropyl alcohol and water, and dried under high vacuum at 60° C. overnight to give 3.92 g (82%) of crystals, mp 228°-229° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Aminomethylcyclopropane hydrochloride | 0.028 mole, 3.01 g | Cl.NCC1CC1
reactant | triethylamine | 0.028 mole, 2.83 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-(cyclopropylmethyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.92 g, 82% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCC1CC1 | C18H17ClN4O
